US07807832B2
Alternative preparation for 2-tert-Butylamino-4-[4-fluoro-phenylethynyl]pyrimidine
A solution of 2-chloro-4-(4-fluoro-phenylethynyl)-pyrimidine (1 equiv.) in tert-butylamine (0.2 M) is heated at 80° C. in a sealed tube for 24 h. The mixture is cooled to rt, diluted with water, and extracted with EtOAc. The organic layer is concentrated and the residue purified by column chromatography to provide the title compound.

reactant | 2-chloro-4-(4-fluoro-phenylethynyl)-pyrimidine | 1 equiv. | ClC1=NC=CC(=N1)C#CC1=CC=C(C=C1)F | C12H6ClFN2
reactant | tert-butylamine | 0.2 M | C(C)(C)(C)N | C4H11N
solvent | water | O | H2O
product | 2-tert-Butylamino-4-[4-fluoro-phenylethynyl]pyrimidine | C(C)(C)(C)NC1=NC=CC(=N1)C#CC1=CC=C(C=C1)F | C16H16FN3
